US20010049445A1
reacting methyl 3-oxovalerate with methyl orthoformate (commercially available) to give methyl (E)-3-methoxy-2-pentenoate,

reactant | methyl 3-oxovalerate | O=C(CC(=O)OC)CC | C6H10O3
reactant | methyl orthoformate | C(OC)([O-])[O-]
product | methyl (E)-3-methoxy-2-pentenoate | CO/C(=C/C(=O)OC)/CC | C7H12O3
